US05229519
2-Cyanoethyl-5-norbornene-2-carboxaldehyde
To a solution of acrylonitrile in 50 mL of toluene was added at room temperature 2 mL of 10% aqueous solution of KOH. To this was added 5-norbornene-2-carboxaldehyde (6.1 g, 50 mmol) at ambient temperature within a period of 2 h. The resulting mixture was stirred for 6 h, quenched with 3 N aqueous HCl, extracted with toluene, dried over MgSO4. Solvent and residual starting materials were removed to give the title compound.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | KOH | [OH-].[K+]
reactant | 5-norbornene-2-carboxaldehyde | 50 mmol, 6.1 g | C12C(CC(C=C1)C2)C=O | C8H10O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyanoethyl-5-norbornene-2-carboxaldehyde | C(#N)CCC12C(CC(C=C1)C2)C=O | C11H13NO
